US05559113
4-[2-(4-Benzoylphenoxy)ethyl]-1H-imidazole
240 mg (60% in oil, 6 mmol) of sodium hydride are added to a solution of 2.34 g (12 mmol) of 4-hydroxybenzophenone in 10 ml of dimethylformamide. The mixture is stirred at room temperature for 1 hour under nitrogen. 200 mg (1.2 mmol) of 4-(2-chloroethyl)-1H-imidazole hydrochloride and tetrabutylammonium iodide (catalytic amount) are then added. The mixture is heated at 100° C. for 2 days and the solvent is then evaporated under reduced pressure. Dilute hydrochloric acid is added to the oily residue and the excess hydroxybenzophenone is extracted with diethyl ether. The aqueous solution is basified with potassium carbonate and the product is extracted with diethyl ether. The title compound is converted to the dioxalate. Crystallization from an ethanol/diethyl ether (2/1) mixture gives a pure product, M.p.: 193°-194° C.

reactant | sodium hydride | 6 mmol, 240 mg | [H-].[Na+]
reactant | 4-hydroxybenzophenone | 12 mmol, 2.34 g | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | 4-(2-chloroethyl)-1H-imidazole hydrochloride | 1.2 mmol, 200 mg | Cl.ClCCC=1N=CNC1
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-[2-(4-Benzoylphenoxy)ethyl]-1H-imidazole | C(C1=CC=CC=C1)(=O)C1=CC=C(OCCC=2N=CNC2)C=C1 | C18H16N2O2
